US05698554
By treating 6-[4-(4-aminobutyl)phenyl]pyridazin-3(2H)-one and 3-methyl-5-carboxyisoxazole in the same manner as in Example 87, 6-{4-[4-(3-methylisoxazole-5-ylcarbonylamino)butyl]phenyl}pyridazin-3(2H)-one was obtained.

reactant | 6-[4-(4-aminobutyl)phenyl]pyridazin-3(2H)-one | NCCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C14H17N3O
reactant | 3-methyl-5-carboxyisoxazole | CC1=NOC(=C1)C(=O)O | C5H5NO3
product | 6-{4-[4-(3-methylisoxazole-5-ylcarbonylamino)butyl]phenyl}pyridazin-3(2H)-one | CC1=NOC(=C1)C(=O)NCCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C19H20N4O3
